US06784183B2
Step 1: 2-(4,5-Dihydro-1H-imidazol-2-yl)-7-nitro-1,2,3,4-tetrahydroisoquinoline
A mixture of 10 g of 7-nitro-1,2,3,4-tetrahydroisoquinoline, 13.7 g of 2-methylsulphanyl-4,5-dihydro-1H-imidazole hydriodide and 100 ml of methanol is heated at reflux for 12 hours. The addition of diethyl ether causes the separation of a precipitate, which is taken up in water, neutralised using sodium hydroxide and extracted with dichloromethane.

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline | 10 g | [N+](=O)([O-])C1=CC=C2CCNCC2=C1 | C9H10N2O2
reactant | 2-methylsulphanyl-4,5-dihydro-1H-imidazole hydriodide | 13.7 g | I.CSC=1NCCN1
reactant | methanol | 100 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4,5-Dihydro-1H-imidazol-2-yl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | N1C(=NCC1)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C12H14N4O2
